datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCC[Si:11](CCC)(CCC)[H:10].FC1=CC(F)=CC(C2C3[CH:20](C4=CC(F)=CC(F)=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1>>CCC[Si+:11](CCC)CCC.FC1=CC(F)=CC(C2C([CH:20](C3=CC(F)=CC(F)=C3)[H:10])[Pd-2:21]2([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1 10,11=10,20;20,21=21"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](Br)[C:24](=[O:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1.Cl[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](Cl)[CH:64]=[CH:63]3)[C:21]2=[CH:22][C:23](Br)=[C:24]([O-:25])[C:33](Br)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC1(C)C2CC1[C:11](C)=[CH:10]C2.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2CC3CC(C3(C)C)[C+:11]2C)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"C1=CC=C([S:61]([CH-:10][C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)(=[O:62])=[O:72])C=C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C)[C:24](=[O:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C:21]2=[CH:22][C:23](C)=[C:24]([O-:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1.[O+]#C[Co-3:32]12(C#[O+])(C#[O+])C3[C:31]1([CH+:20][C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[Co-3:42]32(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>O=[N+]([O-])[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][CH:20]([C:31]23C4[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)=[CH:62]1 10=20
"C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>C[C+:11]([CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[C:32]2=NO[N+]([O-])=[C:33]2[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1.Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>CC(C)[C@H]1CC[N+:12]2=[C:11]([N:10]1[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12"
"C1CC[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CC1.CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([CH2:10][C:11](=[N+:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]C(F)(F)F)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:11](=[CH2:10])[CH2:62][Si:63](Cl)(Cl)Cl>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20](C(F)(F)F)[CH2:10][C+:11](C)[CH2:62][Si:63](Cl)(Cl)Cl)=[CH:22]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([S+:61](C)C)[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]2)[N:21](C)C)[CH:36]=[CH:35]1 10=20;20,21=21"
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)[C@@H]1C(C)(C)C.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2[C@@H](CC3=CC=CC=C3)C(=O)N(C)[C@H]2C(C)(C)C)[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F.F[B-](F)(F)[C:11]1=[CH:10][O:14][CH:13]=[CH:12]1>>C[N-:21]C1=CC=CC=C1.F[B-](F)(F)[C:11]1=[CH:12][CH:13]=[O+:14][CH:10]1[S:20]C(F)(F)F 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
